US04599344
Combine 15.06 g (0.046 mole) 2-[3-(4-chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octane-3-one hydrochloride, 45 ml (0.93 mole) hydrazine monohydrate, 50.6 g (0.9 mole) potassium hydroxide and 75 ml diethylene glycol and heat to 100° C. After 3 hours, fit the reaction flask with a distillation head and heat reaction in an oil bath until oil bath temperature reaches approximately 190° C. Heat at this temperature for 5 hours. Cool the reaction mixture to room temperature. Quench the cool mixture with 500 ml H2O. Adjust the pH with concentrated hydrochloric acid to pH=1. Wash the aqueous layer 1×250 ml diethyl ether. Adjust pH of the aqueous layer to pH=11 with ammonium hydroxide. Extract with 3×250 ml methylene cloride. Dry the extracts over potassium carbonate, filter and remove the solvents in vacuo to obtain 2-[3-(4-chlorophenyl)propyl]-1-azabicyclo[2.2.2]octane as an oil. Dissolve this oil in 50 ml ethanol and acidify with HCl gas. Remove the solvents in vacuo to obtain an oil. Triturate the residue in diethyl ether to obtain the title compound. Recrystallize product from 2-propanol.

reactant | 2-[3-(4-chlorophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octane-3-one hydrochloride | 0.046 mole, 15.06 g | Cl.ClC1=CC=C(C=C1)C(CCC1N2CCC(C1=O)CC2)=O
reactant | hydrazine monohydrate | 0.93 mole, 45 ml | O.NN
reactant | potassium hydroxide | 0.9 mole, 50.6 g | [OH-].[K+]
solvent | diethylene glycol | 75 ml | C(COCCO)O | C4H10O3
product | 2-[3-(4-chlorophenyl)propyl]-1-azabicyclo[2.2.2]octane | ClC1=CC=C(C=C1)CCCC1N2CCC(C1)CC2 | C16H22ClN
